US05763437
To a solution of N-(3-nitrobenzoyl)glycine benzyl ester (5.98 g) in 90% aqueous ethanol (150 ml) was added ammonium chloride (3.56 g). To the mixture was added portionwise iron powder (5.31 g) under stirring and refluxing. After the addition was completed, the mixture was refluxed for 2 hours under stirring. The reaction mixture was hot-filtered. The filtrate and the washings were combined and evaporated in vacuo. To the aqueous residue were added water and ethyl acetate under stirring. The separated organic layer was washed with water twice and dried over magnesium sulfate. Removal of the solvent gave N-(3-aminobenzoyl)glycine benzyl ester (4.03 g) as a viscous oil, which was used in a following reaction without further purification.

reactant | N-(3-nitrobenzoyl)glycine benzyl ester | 5.98 g | C(C1=CC=CC=C1)OC(CNC(C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C16H14N2O5
reactant | ammonium chloride | 3.56 g | [Cl-].[NH4+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | iron | 5.31 g | [Fe] | Fe
product | N-(3-aminobenzoyl)glycine benzyl ester | 4.03 g | C(C1=CC=CC=C1)OC(CNC(C1=CC(=CC=C1)N)=O)=O | C16H16N2O3
